US09447044B2
Step A: 2-cyclopropylmethylsulfanyl-nicotinic acid
2-Mercapto-nicotinic acid (1 g, 6.4 mmol) and bromomethyl cyclopropane were reacted in the same manner as in Step A of Preparation Example 10 to obtain the title compound (1.19 g, 88%).

reactant | 2-Mercapto-nicotinic acid | 6.4 mmol, 1 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | bromomethyl cyclopropane | BrCC1CC1 | C4H7Br
product | 2-cyclopropylmethylsulfanyl-nicotinic acid | 1.19 g, 88% | C1(CC1)CSC1=C(C(=O)O)C=CC=N1 | C10H11NO2S
